US07259266B2
Step 1. Preparation of ethyl 6-methyl-8-(phenoxymethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The polymer bound triphenylphosphine (1.2 g, 3.6 mmole) was suspended in anhydrous THF (10 mL) and the mixture was allowed to stir for 15 minutes. The ethyl 8-(hydroxymethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 605b, Step 1 (0.38 g, 1.20 mmole), phenol (0.17 g, 1.80 mmole) and DEAD (0.31 g, 1.80 mmole) were added to above mixture, which was allowed to stir for 18 hours. The resulting mixture was filtered through a plug of celite and condensed in vacuo to give an off-white solid (0.47 g, 98%). No further purification was performed. GCMS m/z 392.0 (M+).

reactant | triphenylphosphine | 3.6 mmole, 1.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 8-(hydroxymethyl)-6-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | OCC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)C | C15H15F3O4
reactant | phenol | 1.80 mmole, 0.17 g | C1(=CC=CC=C1)O | C6H6O
reactant | DEAD | 1.80 mmole, 0.31 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl 6-methyl-8-(phenoxymethyl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.47 g, 98% | CC=1C=C2C=C(C(OC2=C(C1)COC1=CC=CC=C1)C(F)(F)F)C(=O)OCC | C21H19F3O4
